US05212269
c) Preparation of N-Ethyl-N-(2-hydroxyethyl)-4-formylaniline starting material
4-Formyl-N-ethyl-N-(2-benzoyloxyethyl)aniline (16 g, 51 mmol) was added to a stirring suspension of potassium carbonate (9 g, 65 mmol) in methanol (150 mL) and water (50 mL). Stirring was continued at room temperature for 4 hours followed by addition of 1 molar hydrochloric acid (250 mL) and extraction into diethyl ether (3×100 mL). The combined ether layers were washed with saturated sodium bicarbonate (200 mL), water (200 mL), saturated sodium chloride (200 mL), dried over magnesium sulfate and the solvent was removed under reduced pressure. The crude product was purified using a silica gel chromatography column eluting with 50% ethyl acetate in hexane which gave the compound as a clear yellow oil (5 g, 51% yield).

reactant | 4-Formyl-N-ethyl-N-(2-benzoyloxyethyl)aniline | 51 mmol, 16 g | C(=O)C1=CC=C(N(CCOC(C2=CC=CC=C2)=O)CC)C=C1 | C18H19NO3
reactant | potassium carbonate | 65 mmol, 9 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 molar, 250 mL | Cl | ClH
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | methanol | 150 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | N-Ethyl-N-(2-hydroxyethyl)-4-formylaniline | 5 g, 51% yield | C(C)N(C1=CC=C(C=C1)C=O)CCO | C11H15NO2
